US04618610
3'-Acetamido-4'-chloro-2-hydroxyiminopropiophenone (70.75 g) was reacted with thiosemicarbazide (28.4 g) in the same manner as Example 1-(1) to give 3'-acetamido-4'-chloro-2-hydroxyiminopropiophenone thiosemicarbazone (84.36 g).

reactant | 3'-Acetamido-4'-chloro-2-hydroxyiminopropiophenone | 70.75 g | C(C)(=O)NC=1C=C(C=CC1Cl)C(C(C)=NO)=O | C11H11ClN2O3
reactant | thiosemicarbazide | 28.4 g | NNC(=S)N | CH5N3S
product | 3'-acetamido-4'-chloro-2-hydroxyiminopropiophenone thiosemicarbazone | 84.36 g | C(C)(=O)NC=1C=C(C=CC1Cl)C(C(C)=NO)=NNC(=S)N | C12H14ClN5O2S
